US07501421B2
Preparation of 2,6-Diaminophenol
A mixture of 2,6-dinitrophenol (2.50 g, 13.6 mmol) and 10% Pd/C (300 mg) in MeOH was shaken under H2 (40 psi) overnight and filtered. The filtrate was concentrated in vacuo to provide the title compound (1.50 g, 89%), characterized by NMR and mass spectral analyses.

reactant | 2,6-dinitrophenol | 13.6 mmol, 2.50 g | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])O | C6H4N2O5
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 2,6-Diaminophenol | 1.50 g, 89% | NC1=C(C(=CC=C1)N)O | C6H8N2O
